US07074819B2
Step 3) Synthesis of 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzyl-alcohol
4-[3-(t-butyldimethylsilyloxymethyl)phenyl]-7-methoxy-3-(4-methoxyphenyl)thiochroman (480 mg, 0.947 mmol) was dissolved in tetrahydrofuran (40 ml), and added 3N hydrochloric acid solution (2.7 ml) thereto. The reaction mixture was stirred at room temperature for 4 h. When the reaction was completed, water was added to the reaction solution which was then extracted with ethyl acetate. The extract was washed with sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was flash chromatographied on silica gel (n-hexane:ethyl acetate=1:1) to obtain 358 mg (yield: 96%) of the title compound as a white solid.

reactant | 4-[3-(t-butyldimethylsilyloxymethyl)phenyl]-7-methoxy-3-(4-methoxyphenyl)thiochroman | 0.947 mmol, 480 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)C1C(CSC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C30H38O3SSi
reactant | hydrochloric acid | 3N, 2.7 ml | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzyl-alcohol | 358 mg, yield: 96% | COC1=CC=C2C(C(CSC2=C1)C1=CC=C(C=C1)OC)C=1C=C(CO)C=CC1 | C24H24O3S
